US03932661
To a solution of 35.0 g. (0.323 mole) phenylhydrazine in 300 ml. pyridine, cooled to about 5° to 8° C., was added 54.8 g. (0.30 mole) p-isopropylbenzoyl chloride. This reaction mixture was set aside for 37 hrs. at about 25° C. The mixture was then poured into 1500ml. ice-water and the solids that separated were collected on a filter and washed with water. After recrystallization from 850 ml. ethanol, there was obtained 64.7 g. (84.8% yield) of p-isopropylbenzoic acid phenylhydrazide melting at 198° to 201° C. An analytical sample melting at 200.5° to 202.5° C. was obtained after two recrystallizations from ethanol.

reactant | phenylhydrazine | 0.323 mole | C1(=CC=CC=C1)NN | C6H8N2
reactant | p-isopropylbenzoyl chloride | 0.30 mole | C(C)(C)C1=CC=C(C(=O)Cl)C=C1 | C10H11ClO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | p-isopropylbenzoic acid phenylhydrazide | 84.8% yield | C1(=CC=CC=C1)N(N)C(C1=CC=C(C=C1)C(C)C)=O | C16H18N2O
